US03989694
To a solution of 13.8 g. (0.6 mol.) of sodium in absolute ethanol is added a solution of 96 g. (0.6 mol.) of diethylmalonate in 500 ml. of ether. The mixture is cooled and 117.1 g. (0.6 mol.) of 2-bromo-2-methylpropionic acid ethyl ester is added. The reaction mixture is warmed for 2 hours, then stirred at ambient temperature for 48 hours. Acetic acid and water are added, the layers are separated and the ethereal phase is washed with water, dried (MgSO4) and evaporated to dryness to give diethyl 2-(1-carbethoxy-1-methylethyl)malonate.

reactant | sodium | 0.6 mol | [Na] | Na
reactant | diethylmalonate | 0.6 mol | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | ether | CCOCC | C4H10O
reactant | 2-bromo-2-methylpropionic acid ethyl ester | 0.6 mol | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | diethyl 2-(1-carbethoxy-1-methylethyl)malonate | C(=O)(OCC)C(C)(C)C(C(=O)OCC)C(=O)OCC | C13H22O6
